US08314087B2
6-(4-(Aminomethyl)phenyl)-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one
A suspension of 6-chloro-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one (1250 mg, 3768 μmol), (4-aminomethylphenyl)boronic acid, hydrochloride (1412 mg, 7536 μmol), Na2CO3 (7536 μL, 15071 μmol) [2M], and [1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II) complex with dichloromethane (276 mg, 377 μmol) in DME (2 mL) was sparged with argon for 5 minutes then heated to 85° C. for 4 hours. The reaction was then partitioned between DCM (50 mL) and 1 M NaOH (20 mL). The organic was dried over MgSO4, concentrated onto dry silica (10 g) then purified on silica (40 g) eluting with 0>5% MeOH/DCM. The product was isolated as an off white solid from ACN. MS (ESI pos. ion) m/z: 403 (MH+); calc'd for C23H22N4O3: 402. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 2 H) 3.87 (s, 3 H) 4.67 (s, 4 H) 6.95 (d, J=5.28 Hz, 1 H) 7.01 (dd, J=9.00, 2.54 Hz, 1 H) 7.08 (d, J=9.78 Hz, 1 H) 7.27 (d, J=2.35 Hz, 1 H) 7.41 (d, J=8.22 Hz, 2 H) 7.78 (d, J=8.41 Hz, 2 H) 7.90 (d, J=9.19 Hz, 1 H) 8.03 (d, J=9.78 Hz, 1 H) 8.62 (d, J=5.28 Hz, 1 H).

reactant | 6-chloro-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one | 3768 μmol, 1250 mg | ClC=1C=CC(N(N1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C16H14ClN3O3
reactant | (4-aminomethylphenyl)boronic acid, hydrochloride | 7536 μmol, 1412 mg | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | Na2CO3 | 15071 μmol, 2M, 7536 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 377 μmol, 276 mg | ClCCl | CH2Cl2
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 6-(4-(Aminomethyl)phenyl)-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one | NCC1=CC=C(C=C1)C=1C=CC(N(N1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C23H22N4O3
